US04585789
3-(4-Ethoxycarbonyloxy-5-oxo-3-phenyl-2,5-dihydro-2-furyl)propionic acid (20 mg) was dissolved in methanol (3 ml), and 10% aqueous potassium carbonate (3 ml) was added. The mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into ice water (10 ml), acidified with hydrochloric acid, and extracted with ethyl acetate. The extract was washed with water and dried over magnesium sulfate. The solvent was then distilled off. The remaining oil was purified by preparative silice gel thin layer chromatography (developer: 5% methanol-chloroform). Recrystallization from chloroform gave 3-(4-hydroxy-5-oxo-3-phenyl-2,5-dihydro-2-furyl)propionic acid (11 mg) as colorless needles. m.p. 177°-179° C.

reactant | 3-(4-Ethoxycarbonyloxy-5-oxo-3-phenyl-2,5-dihydro-2-furyl)propionic acid | 20 mg | C(C)OC(=O)OC1=C(C(OC1=O)CCC(=O)O)C1=CC=CC=C1 | C16H16O7
reactant | potassium carbonate | 3 ml | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 3 ml | CO | CH4O
product | 3-(4-hydroxy-5-oxo-3-phenyl-2,5-dihydro-2-furyl)propionic acid | 11 mg | OC1=C(C(OC1=O)CCC(=O)O)C1=CC=CC=C1 | C13H12O5
